US03968227
A solution of 4-methyl-5-((2-aminoethyl)thiomethyl) imidazole (10.2 g) in ethanol (75 ml) was added slowly, with stirring, to carbon disulphide (200 ml). The mixture was set aside overnight at room temperature and the solid formed was collected and recrystallized from aqueous isopropyl alcohol to afford N-[2-((5-methyl-4-imidazolyl)-methylthio)ethyl]dithiocarbamic acid (9.8 g)., m.p. 127°-129°.

reactant | 4-methyl-5-((2-aminoethyl)thiomethyl) imidazole | 10.2 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | carbon disulphide | 200 ml | C(=S)=S | CS2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N-[2-((5-methyl-4-imidazolyl)-methylthio)ethyl]dithiocarbamic acid | 9.8 g | CC1=C(N=CN1)CSCCNC(S)=S | C8H13N3S3
